* extracted by klt extract --deck gf180mcu

* cell rcosc_bias
* pin ibias
* pin vdd
* pin vh
* pin vl
* pin vss
.SUBCKT rcosc_bias ibias vdd vh vl vss
* device instance $1 r0 *1 315.44,1 nfet
M$1 ibias ibias vss vsubs nfet L=1U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $2 r0 *1 383.4,1 nfet
M$2 \$7 vl vss vsubs nfet L=20U W=2U AS=0.84P AD=0.84P PS=4.84U PD=4.84U
* device instance $3 r0 *1 321.28,1.82 nfet
M$3 \$7 ibias \$1 vsubs nfet L=1U W=2U AS=0.84P AD=0.42P PS=4.84U PD=2.42U
* device instance $4 r0 *1 322.7,1.82 nfet
M$4 \$1 ibias \$7 vsubs nfet L=1U W=2U AS=0.42P AD=0.42P PS=2.42U PD=2.42U
* device instance $5 r0 *1 324.12,1.82 nfet
M$5 \$7 ibias \$1 vsubs nfet L=1U W=2U AS=0.42P AD=0.42P PS=2.42U PD=2.42U
* device instance $6 r0 *1 325.54,1.82 nfet
M$6 \$1 ibias \$7 vsubs nfet L=1U W=2U AS=0.42P AD=0.42P PS=2.42U PD=2.42U
* device instance $7 r0 *1 326.96,1.82 nfet
M$7 \$7 ibias \$1 vsubs nfet L=1U W=2U AS=0.42P AD=0.42P PS=2.42U PD=2.42U
* device instance $8 r0 *1 328.38,1.82 nfet
M$8 \$1 ibias \$7 vsubs nfet L=1U W=2U AS=0.42P AD=0.42P PS=2.42U PD=2.42U
* device instance $9 r0 *1 329.8,1.82 nfet
M$9 \$7 ibias \$1 vsubs nfet L=1U W=2U AS=0.42P AD=0.42P PS=2.42U PD=2.42U
* device instance $10 r0 *1 331.22,1.82 nfet
M$10 \$1 ibias \$7 vsubs nfet L=1U W=2U AS=0.42P AD=0.84P PS=2.42U PD=4.84U
* device instance $11 r0 *1 398.89,2 pfet
M$11 \$7 \$7 vdd vdd pfet L=1U W=4U AS=1.68P AD=1.68P PS=8.84U PD=8.84U
* device instance $12 r0 *1 405.03,2 pfet
M$12 ibias \$7 vdd vdd pfet L=1U W=4U AS=1.68P AD=1.68P PS=8.84U PD=8.84U
* device instance $13 r0 *1 50.42,1 ppolyf_u_1k
R$13 vdd vh vsubs 50000 ppolyf_u_1k
* device instance $14 r0 *1 155.26,1 ppolyf_u_1k
R$14 vh vl vsubs 50000 ppolyf_u_1k
* device instance $15 r0 *1 260.1,1 ppolyf_u_1k
R$15 vl vss vsubs 50000 ppolyf_u_1k
* device instance $16 r0 *1 352.56,1 ppolyf_u_1k
R$16 \$1 vss vsubs 16000 ppolyf_u_1k
.ENDS rcosc_bias
